US07851493B2
To a solution of 300 mg of 4-[4-(3-benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-benzonitrile in 1.8 mL of tetrahydrofuran and 2 mL of methanol was added 387 mg of hydroxylamine hydrochloride followed by 0.62 mL of triethylamine. The resulting mixture was heated to 150° C. under microwave irradiation for 10 minutes. After allowing it to cool down to room temperature, the mixture was concentrated under reduced pressure and dichloromethane/water were added to the residue. The organic layer was separated and the aqueous layer extracted three times with dichloromethane. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (heptane 50/ethyl acetate 50) to give 162 mg of 4-[4-(3-benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-N-hydroxy-2-methoxy-benzamidine.

reactant | 4-[4-(3-benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-benzonitrile | 300 mg | C(C1=CC=CC=C1)OCCCC=1N=C(SC1COC1=CC(=C(C#N)C=C1)OC)C1=CC=C(C=C1)C(F)(F)F | C29H25F3N2O3S
reactant | hydroxylamine hydrochloride | 387 mg | Cl.NO
reactant | triethylamine | 0.62 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 1.8 mL | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
product | 4-[4-(3-benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-N-hydroxy-2-methoxy-benzamidine | 162 mg | C(C1=CC=CC=C1)OCCCC=1N=C(SC1COC1=CC(=C(C(=N)NO)C=C1)OC)C1=CC=C(C=C1)C(F)(F)F | C29H28F3N3O4S
